US07452893B2
Step 2: trans [3-(3-Phenyl-2-p-tolyl-allyloxy)-cyclopentyl]-carbamic acid benzyl ester
A stirred mixture of 10 g of racemic trans [3-(2-bromo-3-phenyl-allyloxy)-cyclopentyl]-carbamic acid benzyl ester, 4.7 g of p-tolylboronic acid, 160 mg of o-biphenyl dicyclohexylphosphine, 52 mg of palladium acetate, 4 g of potassium fluoride and 25 mL of anhydrous tetrahydrofuran was stirred at room temperature for 1 h then heated to 50° C. for 3h under nitrogen atmosphere. The mixture was cooled diluted with 50 mL of sodium carbonate and extracted with 3×100 mL portions of ethyl acetate. The combined extracts were dried over magnesium sulfate and concentrated under reduced pressure. Chromatography using a gradient of 0% to 25% ethyl acetate in hexane gave 10.8 g of product as a crystalline solid: MS (m+1)=442.3; 1H NMR (400 MHz, CDCl3) 7.35 (m, 4H), 7.1 (m, 8H), 7.0 (d, 2H), 6.6 (s, 1H), 5.1 (s, 2H), 4.7 (br s, 1H), 4.2 (s, 2H), 4.1 (m, 1H), 2.37 (s, 3H), 2.2 (m, 2H), 1.986 (m, 1H), 1.78 (m, 1H), 1.62 (m, 1H), 1.4 (m, 1H).

reactant | racemic trans [3-(2-bromo-3-phenyl-allyloxy)-cyclopentyl]-carbamic acid benzyl ester | 10 g | C(C1=CC=CC=C1)OC(N[C@@H]1C[C@H](CC1)OCC(=CC1=CC=CC=C1)Br)=O | C22H24BrNO3
reactant | p-tolylboronic acid | 4.7 g | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
reactant | potassium fluoride | 4 g | [F-].[K+]
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | sodium carbonate | 50 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium acetate | 52 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | o-biphenyl dicyclohexylphosphine | 160 mg | C1(CCCCC1)PC1CCCCC1.C1(=CC=CC=C1)C1=CC=CC=C1
product | trans [3-(3-Phenyl-2-p-tolyl-allyloxy)-cyclopentyl]-carbamic acid benzyl ester | 10.8 g | C(C1=CC=CC=C1)OC(N[C@@H]1C[C@H](CC1)OCC(=CC1=CC=CC=C1)C1=CC=C(C=C1)C)=O | C29H31NO3
